US05576453
Alternatively, di(2-propyl)octyloxychlorosilane was prepared as follows. To a 1000 ml three-neck round-bottom flask fitted with a stirrer, drying tube, thermometer and dropping funnel was added di(2-propyl)dichlorosilane (28.3 g, 153 mmol) and dry toluene (200 ml). The reaction mixture was then stirred and cooled to -5° C. A solution of dry octanol (10.0 g, 76 mmole) and dry pyridine (6.5 g, 82 mmole) in dry toluene (100 ml) was added dropwise for 60 minutes. The reaction mixture was suspended overnight at room temperature, filtered under a "nitrogen blanket" and fractionated.

reactant | di(2-propyl)dichlorosilane | 153 mmol, 28.3 g | CC(C)[Si](Cl)(Cl)C(C)C | C6H14Cl2Si
reactant | octanol | 76 mmole, 10.0 g | C(CCCCCCC)O | C8H18O
reactant | pyridine | 82 mmole, 6.5 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | di(2-propyl)octyloxychlorosilane | CC(C)[Si](Cl)(OCCCCCCCC)C(C)C | C14H31ClOSi
